* Common emitter amplifier
.model 2N3904  NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+              Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+              Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 
+              Vje=.75 Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
* 
V1 Vcc 0 DC 12V 
* need extra 0 at "4th" connection of transistors. bug?       
Q1 vc vb ve 0 2n3904      
Rc Vcc vc 2k
Re ve 0 500
R1 vb 0 7k
R2 Vcc vb 33k
C1 Vin vb 0.1u    
C2 vc Vout 0.1u    
RL Vout 0 100k    
Vsig Vin 0 ac 10mV sin(0 10mV 1kHz) 
.end
