MOSFET PWM circuit

.include buz41a.lib
.include ddz10c.lib

* power line
Vsig Vin Vneutral sin(0 230V 60Hz)
Rneut Vneutral 0 1

* PWM control (with fake optocoupler)
Vctl PWM 0 pulse(0 3.3 2ns 2ns 2ns 100us 1000us)
.model switch SW (VT=2.1)
S1 j8 j10 PWM 0 switch
R4 j7 j6 33k

* load
Rload j1 Vneutral 1.2k

* Rectifier section
*SRC=1N5408;DI_1N5408;Diodes;Si;  1.00kV  3.00A  3.00us   Diodes Inc. Standard Rectifier 
.MODEL DI_1N5408 D  ( IS=63.0n RS=14.1m BV=1.00k IBV=10.0u 
+                     CJO=53.0p  M=0.333 N=1.70 TT=4.32u )
D2 j1  j2  DI_1N5408
D3 Vin j2  DI_1N5408
D4 j3  j1  DI_1N5408
D5 j3  Vin DI_1N5408

R5 j6 j5 220

*SRC=1N4007;DI_1N4007;Diodes;Si;  1.00kV  1.00A  3.00us   Diodes, Inc. diode
.MODEL DI_1N4007 D  ( IS=76.9p RS=42.0m BV=1.00k IBV=5.00u
+ CJO=26.5p  M=0.333 N=1.45 TT=4.32u )
D6 j2 j5 DI_1N4007

C2a j6 j9 220n
C2b j6 j9 220n     $ schematic says "X2", does that mean 2 in parallel? series? something else?

* MOSFET - subckt expects (gate, source, drain),  i believe...
Xmosfet j10 j3 j2  BUZ41A/INF

* regulator for C2
R2 j3 j10 22k
R3 j7 j8 33k
Xzener j9 j8 DI_DDZ10C
C1 j8 j9 2u

* internal grounds?
Rgnd9 j9 0 1
Rgnd3 j3 0 1

.end