*n-MOSFET*500V 4.5A 1.5 Ohm*Add_in_Line
.SUBCKT BUZ41A/INF 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 31M
D41A 76 95 DREV
.MODEL DREV D CJO=0.28N RS=20M TT=500N IS=300P BV=500
M41A 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=3.277 KP=7.765
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.6N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.209N M=0.564 VJ=1.035
CGS 76 11 0.79N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-17.57 KP=0.055
LG 4 1 7N
.ENDS
