*SRC=DDZ10C;DI_DDZ10C;Diodes;Zener <=10V; 10.0V 0.500W Diodes Inc. ZENER
*SYM=HZEN

.SUBCKT DI_DDZ10C 1 2 
* Terminals A K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 7.65
.MODEL DF D ( IS=20.6p RS=33.0 N=1.10
+             CJO=39.7p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=4.12f RS=4.11 N=3.00 )
.ENDS
